US05332731
Preparation of pivaloyloxymethyl 7-[(Z)-2-(2-aminothiazol-4-yl)-2-methoxyiminoacetamido]-3-(tetrahydropyran-2-yl)methylthio-3-cephem-4-carboxylate
Sodium 7-[(Z)-2-(2-aminothiazol-4-yl)-2-methoxyiminoacetamido]-3-(tetrahydropyran-2-yl)methylthio-3-cephem-4-carboxylate (80 mg) was reacted with iodomethyl pivalate (72 mg), followed by purifying the reaction product in accordance with the procedure of Example 2, giving the titled compound (50 mg; 53%)

reactant | Sodium 7-[(Z)-2-(2-aminothiazol-4-yl)-2-methoxyiminoacetamido]-3-(tetrahydropyran-2-yl)methylthio-3-cephem-4-carboxylate | 80 mg | NC=1SC=C(N1)/C(/C(=O)NC1[C@@H]2N(C(=C(CS2)CC2OCCCC2)C(=S)[O-])C1=O)=N/OC.[Na+]
reactant | iodomethyl pivalate | 72 mg | C(C(C)(C)C)(=O)OCI | C6H11IO2
product | pivaloyloxymethyl 7-[(Z)-2-(2-aminothiazol-4-yl)-2-methoxyiminoacetamido]-3-(tetrahydropyran-2-yl)methylthio-3-cephem-4-carboxylate | 50 mg, 53% | NC=1SC=C(N1)/C(/C(=O)NC1[C@@H]2N(C(=C(CS2)CC2OCCCC2)C(=S)OCOC(C(C)(C)C)=O)C1=O)=N/OC | C25H33N5O7S3
